US04607006
22-1. Preparation of 4'-Methoxy-4-nitrochalcone
30 g of p-nitrobenzaldehyde was reacted with 30 g of p-methoxyacetophenone in 200 ml of acetic acid in the presence of 34 ml of sulfuric acid at room temperature for 1 day, and the reaction mixture was poured into 1 liter of ice-water. After neutralizing the mixture with 48 g of NaOH, crystals formed were collected by filtration, and recrystallized from acetone-acetonitrile (0.2 liter/1.3 liter) to obtain 37.6 g of the desired compound. m.p. 171°-173° C.

reactant | p-nitrobenzaldehyde | 30 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | p-methoxyacetophenone | 30 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | sulfuric acid | 34 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 48 g | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4'-Methoxy-4-nitrochalcone | 37.6 g | COC1=CC=C(C(C=CC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C16H13NO4
